US07750154B2
N-Cyclopropyl-4-methyl-3-[6-[(1S,4S)-5-methyl-2,5-diazabicyclo[2.2.1]hept-2-yl]-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12265665)
A solution of tert-butyl(1S,4S)-5-(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (0.30 g) and 38% aqueous formaldehyde (0.42 ml) in formic acid (5 ml) was stirred at 90° C. for 16 hours. The reaction mixture was diluted with water and sodium bicarbonate added, evacuated to dryness. The residue was partitioned between methylene chloride and saturated NaHCO3 solution. The organic phase was washed with water and dried (magnesium sulphate). The residue was purified by column chromatography on an ion exchange column (isolute SCX-2 column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methylene chloride and then a 49:1 mixture of methanol and aqueous ammonia solution to give the title compound (0.137 g); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.70 (m, 2H), 1.96 (m, 1H), 2.14 (s, 3H), 2.32 (s, 3H), 2.57 (d, 1H), 2.87 (m, 2H), 3.29 (d, 1H), 3.45 (m, 1H), 3.56 (s, 1H), 4.50 (d, 1H), 7.13 (d, 1H), 7.26 (m, 1H), 7.52 (d, 1H), 7.61 (d, 1H), 7.81 (m, 1H), 7.90 (m, 1H), 7.99 (s, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 430.

reactant | tert-butyl(1S,4S)-5-(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.30 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)N1C=NC2=CC=C(C=C2C1=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C)C | C29H33N5O4
reactant | formaldehyde | 0.42 ml | C=O | CH2O
solvent | formic acid | 5 ml | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-Cyclopropyl-4-methyl-3-[6-[(1S,4S)-5-methyl-2,5-diazabicyclo[2.2.1]hept-2-yl]-4-oxoquinazolin-3(4H)-yl]benzamide | 0.137 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1[C@@H]2CN([C@H](C1)C2)C)=O | C25H27N5O2
